US04439519
23 g of 4-dimethylaminobenzoic acid was dissolved in 200 ml of methanol to which was added 2 ml of concentrated sulfuric acid and the mixture was refluxed with heating for 2 days. After cooling, the reaction mixture was poured into an aqueous solution of sodium bicarbonate and the crystals thus deposited were collected by filtration, washed with water and dried to obtain 24 g of 4-dimethylaminobenzoic acid methyl ester having a melting point of 101° to 102° C.

reactant | 4-dimethylaminobenzoic acid | 23 g | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-dimethylaminobenzoic acid methyl ester | 24 g | COC(C1=CC=C(C=C1)N(C)C)=O | C10H13NO2
